US06172085B2
Tert-butyl [2-[[4-[2-[(diphenylmethyl)amino]ethyl]-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate
A solution of tert-butyl [2-[[4-(formylmethyl)-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate (1.5 g) and 1,1-diphenylmethylamine (0.60 mL) in ethanol (20 mL) was stirred on an ice bath for 30 minutes. Then, 0.26 g of sodium cyanoborohydride and a small amount of bromocresol green were added. Thereafter, 4N-HCl solution in ethanol was added until the reaction mixture had turned yellow. The mixture was stirred for 1 hour, after which it was poured in an excess of aqueous sodium hydrogen carbonate. The mixture was extracted with ethyl acetate and the extract was washed with saturated aqueous NaCl and dried over MgSO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=4:1 to ethyl acetate) to provide 1.6 g of the title compound. Yield 77%.

reactant | tert-butyl [2-[[4-(formylmethyl)-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | 1.5 g | C(=O)CC1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C | C25H38N2O4
reactant | 1,1-diphenylmethylamine | 0.60 mL | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | sodium cyanoborohydride | 0.26 g | C(#N)[BH3-].[Na+]
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | HCl | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Tert-butyl [2-[[4-[2-[(diphenylmethyl)amino]ethyl]-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | 1.6 g, Yield 77% | C1(=CC=CC=C1)C(C1=CC=CC=C1)NCCC1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C | C38H51N3O3
